US05552399
A mixture of 5-hexen-1-ol (5 g) and 8-azaspiro[4.5]decane-7,9-dione (14 ml) in triethylamine (150 ml) was cooled on an ice bath. Methane-sulfonyl chloride (8.6 g) in triethylamine (50 ml) was added dropwise and the mixture was stirred at room temperature for 1 hour. The mixture was filtered off and the filtrate evaporated. Dichloromethane (7.7 g), potassium carbonate (7.6 g) and N,N-dimethylformamide (100 ml) were added to the residue and the mixture was stirred at 160° C. overnight. The mixture was filtered off and the filtrate evaporated. The residue was purified by short open column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 100/0 to 98/2). The pure fractions were collected and evaporated, yielding 1.5 g (13%) of 8-(5-hexenyl)-8-azaspiro[4.5]decane-7,9-dione (interm. 8).

reactant | 5-hexen-1-ol | 5 g | C(CCCC=C)O | C6H12O
reactant | 8-azaspiro[4.5]decane-7,9-dione | 14 ml | C1CCCC12CC(NC(C2)=O)=O | C9H13NO2
reactant | Methane-sulfonyl chloride | 8.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | 8-(5-hexenyl)-8-azaspiro[4.5]decane-7,9-dione | 1.5 g, 13% | C(CCCC=C)N1C(CC2(CCCC2)CC1=O)=O | C15H23NO2
